US04609668
2-(4-Iodoethynylphenyl)-3-methyl-1-(1H-1,2,4-triazole-1-yl)butan-2-ol
To a solution of 5.1 g 2-(4-ethynylphenyl)-3-methyl-1-(1H-1,2,4-triazole-1-yl)butan-2-ol in 100 ml abs. CH3OH are simultaneously added, with stirring at 20°-25°, 2.6 g iodine and 10 ml 30% NaOH solution. The reaction mixture is maintained at room temperature for 24 hours, with stirring, then poured into 500 ml H2O and extracted with CH2Cl2. The organic phase is washed, dried and evaporated. The residue is stirred in hexane fraction and kept over 16 hours at rest. The precipitate is sucked off and dried to give the title compound m.p. 122° as colourless crystals.

reactant | 2-(4-ethynylphenyl)-3-methyl-1-(1H-1,2,4-triazole-1-yl)butan-2-ol | 5.1 g | C(#C)C1=CC=C(C=C1)C(CN1N=CN=C1)(C(C)C)O | C15H17N3O
reactant | CH3OH | CO | CH4O
reactant | iodine | 2.6 g | II | I2
reactant | NaOH | 10 ml | [OH-].[Na+]
solvent | H2O | 500 ml | O | H2O
product | 2-(4-Iodoethynylphenyl)-3-methyl-1-(1H-1,2,4-triazole-1-yl)butan-2-ol | IC#CC1=CC=C(C=C1)C(CN1N=CN=C1)(C(C)C)O | C15H16IN3O
